US04165372
A mixture of 4.9 g of 6-bromo-7,8-dimethoxy-1-phenyl-2,3,4,5-tetrahydro-1H-3-benzazepine, 0.02 ml of n-butyl bromide and 0.02 mol of potassium hydroxide is dissolved in 120 ml of dry methanol and refluxed for 48 hours. The reaction mixture is evaporated to dryness, taken up in ethyl acetate and filtered to remove inorganic salts. The filtrate is washed with water, dried and evaporated to give 3-n-butyl-6-bromo-7,8-dimethoxy-1-phenyl-2,3,4,5-tetrahydro-1H-3-benzazepine.

reactant | 6-bromo-7,8-dimethoxy-1-phenyl-2,3,4,5-tetrahydro-1H-3-benzazepine | 4.9 g | BrC1=C(C(=CC=2C(CNCCC21)C2=CC=CC=C2)OC)OC | C18H20BrNO2
reactant | n-butyl bromide | 0.02 ml | C(CCC)Br | C4H9Br
reactant | potassium hydroxide | 0.02 mol | [OH-].[K+]
solvent | methanol | 120 ml | CO | CH4O
product | 3-n-butyl-6-bromo-7,8-dimethoxy-1-phenyl-2,3,4,5-tetrahydro-1H-3-benzazepine | C(CCC)N1CCC2=C(C(C1)C1=CC=CC=C1)C=C(C(=C2Br)OC)OC | C22H28BrNO2
